US04851387
29.2 mg of 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid methylamide was dissolved in ethanol and then hydrogenated by using palladium black as a catalyst under atmospheric pressure. The reaction mixture was subjected to filtration, and the solvent of the filtrate was distilled off under reduced pressure to obtain 19.2 mg of (2RS,4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-octanoic acid methylamide.

reactant | 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid methylamide | 29.2 mg | CNC(C(=C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OCC1=CC=CC=C1)CC(C)C)CCOC1OCCCC1)=O | C28H42N2O6
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | (2RS,4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-octanoic acid methylamide | 19.2 mg | CNC(C(C[C@@H]([C@H](CC(C)C)N)O)CCOC1OCCCC1)=O | C17H34N2O4
